US07667041B2
EDC (384 mg), HOBT (271 mg) and IPEA (0.582 mL) were sequentially added to a solution of (E)-5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid trifluoroacetate (300 mg) and 1-(1H-indol-3-yl)ethylamine (130 mg) in DMF (5 mL), and the reaction solution was stirred at room temperature for 12 hours. After confirming that the raw materials disappeared, ethyl acetate and water were added to the reaction solution and the organic layer was partitioned. The resulting organic layer was sequentially washed with a saturated aqueous solution of ammonium chloride and brine, and then dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (Carrier: Chromatorex™ NH, elution solvent:chloroform:methanol system) to obtain (E)-5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid (1-(1H-indol-3-yl)ethyl)amide (332 mg). Sodium hydride (containing mineral oil at 40%, 19.3 mg) was added to a solution of the resulting (E)-5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid (1-(1H-indol-3-yl)ethyl)amide (92 mg) in THF (3 mL) at 0° C., and the reaction solution was stirred at room temperature for 90 minutes. The reaction solution was cooled to 0° C., water and ethyl acetate were added to the reaction solution, and the organic layer was partitioned. The organic layer was washed sequentially with water and a saturated aqueous solution of sodium chloride. The organic layer was dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel chromatography (Carrier: Chromatorex™ NH, elution solvent:chloroform:methanol system) to obtain (E)-1-[1-(1H-indol-3-yl)ethyl]-3-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)piperidin-2-one as a racemate (37.3 mg). The compound (37 mg) was fractionated using CHIRALPAK™ AD-H manufactured by Daicel Chemical Industries, Ltd. (2 cm×25 cm: mobile phase: ethanol) to obtain the title optically active substance with a retention time of 10 minutes (15 mg; >99% ee) and the title optically active substance with a retention time of 14 minutes (14.2 mg; >99% ee).

reactant | HOBT | 271 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | IPEA | 0.582 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (E)-5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid trifluoroacetate | 300 mg | FC(C(=O)O)(F)F.ClCCC\C(\C(=O)O)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC
reactant | 1-(1H-indol-3-yl)ethylamine | 130 mg | N1C=C(C2=CC=CC=C12)C(C)N | C10H12N2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | EDC | 384 mg
product | (E)-5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid (1-(1H-indol-3-yl)ethyl)amide | 332 mg | N1C=C(C2=CC=CC=C12)C(C)NC(/C(/CCCCl)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C27H29ClN4O2
